US06127572
27.2 g of 79.8% strength 2-methyl-5-nitrobenzenesulfonic acid (0.1 mol) were added to a mixture of 10.1 ml of 40% strength aqueous potassium hydroxide (0.1 mol) and 141 ml (0.3 mol) of aqueous sodium hypochlorite. The resulting suspension was heated to 65° C. and, at this temperature, admixed with 23 ml of 40% strength aqueous potassium hydroxide (0.23 mol) at a rate of 0.04 ml/min. After the addition was complete, the mixture was cooled to 0° C. and then admixed with 12.24 g (0.3 mol) of KOH. Over a period of 30 min, 10.64 g (0.15 mol) of chlorine gas were then introduced at this temperature. The temperature was then increased to 65° C., aqueous KOH (40% strength, 9.0 ml, 0.9 mol) was added at 0.04 ml/min and the mixture was subsequently stirred at 65° C. for another 2 hours. After cooling to 50° C., the mixture was acidified dropwise with concentrated hydrochloric acid (37% strength, 18 ml, 0.22 mol) at 50° C. over a period of 1 hour, cooled to 15-20° C. while passing through nitrogen gas, thus removing remaining chlorine gas, and stirred at 15-20° C. for another 2 hours. The product 2-carboxy-5-nitrobenzenesulfonic acid monopotassium salt was obtained, after filtration and drying at 75° C./100 mbar as a white powder; yield: 31 g; 76.5% pure product (83.1 % of theory).

reactant | 2-methyl-5-nitrobenzenesulfonic acid | 0.1 mol | CC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C7H7NO5S
reactant | potassium hydroxide | 0.1 mol | [OH-].[K+]
reactant | sodium hypochlorite | 0.3 mol, 141 ml | Cl[O-].[Na+]
reactant | potassium hydroxide | 0.23 mol | [OH-].[K+]
reactant | KOH | 0.3 mol, 12.24 g | [OH-].[K+]
reactant | chlorine | 0.15 mol, 10.64 g | ClCl | Cl2
reactant | KOH | 0.9 mol, 9.0 ml | [OH-].[K+]
reactant | hydrochloric acid | 0.22 mol, 18 ml | Cl | ClH
product | 2-carboxy-5-nitrobenzenesulfonic acid monopotassium salt | [K+].C(=O)(O)C1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-] | InChI=1S/C7H5NO7S.K/c9-7(10)5-2-1-4(8(11)12)3-6(5)16(13,14)15;/h1-3H,(H,9,10)(H,13,14,15);/q;+1/p-1
